US07723333B2
1-[5-(trifluoromethyl)pyridin-2-yl]piperidin-4-amine dihydrochloride
A mixture of tert-butyl {1-[5-(trifluoromethyl)pyridin-2-yl]piperidin-4-yl}carbamate (1.27 g, 3.68 mmol) in HCl in Dioxane/THF (4M, 1:1; 10 ml) was stirred at rt. After 6.5 h more HCl in Dioxane (4M, 2 ml) was added and the resulting mixture stirred for a further 18 h. The mixture was filtered and the residue was washed with EtOAc to give the title compound (1.04 g, 89%) as a solid. 1H NMR (500 MHz CD3OD): 8.35 (s, 1H), 8.20 (dd, 1H), 7.60 (d, 1H), 4.46 (d, 2H), 3.66-3.56 (m, 1H), 3.48 (td, 2H), 2.28 (d, 2H), 1.90-1.80 (m, 2H); 13C NMR (125 MHz CD3OD): 153.5, 139.2, 136.3, 126.1, 123.9, 121.8, 120.0, 116.2, 115.9, 115.6, 115.3, 113.9, 45.2, 29.1; Mass Spectrum: M+H+ 246.

reactant | tert-butyl {1-[5-(trifluoromethyl)pyridin-2-yl]piperidin-4-yl}carbamate | 3.68 mmol, 1.27 g | FC(C=1C=CC(=NC1)N1CCC(CC1)NC(OC(C)(C)C)=O)(F)F | C16H22F3N3O2
reactant | HCl | Cl | ClH
solvent | Dioxane THF | 4M, 10 ml | O1CCOCC1.C1CCOC1
solvent | Dioxane | 4M, 2 ml | O1CCOCC1 | C4H8O2
product | 1-[5-(trifluoromethyl)pyridin-2-yl]piperidin-4-amine dihydrochloride | 1.04 g, 89% | Cl.Cl.FC(C=1C=CC(=NC1)N1CCC(CC1)N)(F)F | InChI=1S/C11H14F3N3.2ClH/c12-11(13,14)8-1-2-10(16-7-8)17-5-3-9(15)4-6-17;;/h1-2,7,9H,3-6,15H2;2*1H
